US05610178
21-O-Methyl-concanamycin A
In a thoroughly heated 50 ml flask, 800 mg (0.92 mmol) of concanamycin A are dissolved in 19 ml of dry MeOH. 15 mg of FeCl3 (0.09 mmol, 0.1 equiv.) in 1 ml of MeOH are then added and the mixture is stirred for 15 min at room temperature. After the addition of 20 ml of phosphate buffer (pH=7, Merck), the solution is transferred to a 250 ml flask and the organic solvent is carefully removed in vacuo. The remaining aqueous residue is extracted with CHCl3 and, after customary working-up, is filtered on silica gel (system D, 4×10) to yield the title compound. M.p. 141° C.

reactant | concanamycin A | 0.92 mmol, 800 mg | CC[C@H]1[C@H]([C@@H](C/C(=C/C=C/[C@@H]([C@H](OC(=O)/C(=C/C(=C/[C@H]([C@H]1O)C)/C)/OC)[C@@H](C)[C@H]([C@H](C)[C@]2(C[C@H]([C@@H]([C@H](O2)/C=C/C)C)O[C@H]3C[C@H]([C@@H]([C@H](O3)C)OC(=O)N)O)O)O)OC)/C)C)O | C46H75NO14
reactant | phosphate | 20 ml, pH=7 | P(=O)([O-])([O-])[O-]
reactant | MeOH | 19 ml | CO | CH4O
reactant | MeOH | 1 ml | CO | CH4O
product | 21-O-Methyl-concanamycin A | CC[C@H]1[C@H]([C@@H](C/C(=C/C=C/[C@@H]([C@H](OC(=O)/C(=C/C(=C/[C@H]([C@H]1O)C)/C)/OC)[C@@H](C)[C@H]([C@H](C)[C@]2(C[C@H]([C@@H]([C@H](O2)/C=C/C)C)O[C@H]3C[C@H]([C@@H]([C@H](O3)C)OC(=O)N)O)OC)O)OC)/C)C)O | C47H77NO14
